US09127003B2
Intermediate 16: 1-Ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
To a solution of ethyl 1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylate (60 mg, 0.24 mmol) in THF (2 ml) and MeOH (0.5 ml) was added lithium hydroxide (35 mg, 1.45 mmol) in water (2 mL). A cloudy solution formed which became clear after 30 s. The reaction mixture was allowed to stand at room temperature for 18 hr then concentrated under a stream of nitrogen. 2M HCl (2 ml, aqueous) was added to the crude product and the resulting solid filtered then dried under reduced pressure to give the title compound as an off-white solid (32 mg, 60%).

reactant | ethyl 1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 0.24 mmol, 60 mg | C(C)N1C(=CC=2C1=NC=C(C2)OC)C(=O)OCC | C13H16N2O3
reactant | lithium hydroxide | 1.45 mmol, 35 mg | [OH-].[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 1-Ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 32 mg, 60% | C(C)N1C(=CC=2C1=NC=C(C2)OC)C(=O)O | C11H12N2O3
